US06355633B1
2.2′-[(E)-1,2-Ethenediyl]bis(5-{[(9H-fluoren-9-ylmethoxy)carbonyl]amino}benzenesulfonic Acid)
To a solution of commercially available 4,4′-diaminostilbene-2,2′-disulfonic acid (10 g, 27.0 mmol) in a mixture of 270 mL water and 30 mL dioxane was added 14.3 g (135 mmol) of sodium carbonate and the solution stirred until homogeneous. At this time 9-fluorenylmethyl chloroformate was added and the mixture allowed to stir overnight. The solution was filtered and the solids washed with water (200 mL). The collected solids were then suspended in 600 mL of water and 50 mL conc hydrochloric acid added. After 30 minutes the solution was filtered and the solids dried in a vacuum oven overnight at 50° C. to provide the title compound 21.8 g (72%) as a orange-brown solid. MS (ES-NEG): [M−H] 813.

reactant | 4,4′-diaminostilbene-2,2′-disulfonic acid | 27.0 mmol, 10 g | NC=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)N)S(=O)(=O)O)S(=O)(=O)O | C14H14N2O6S2
reactant | sodium carbonate | 135 mmol, 14.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 9-fluorenylmethyl chloroformate | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
solvent | water | 270 mL | O | H2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 2.2′-[(E)-1,2-Ethenediyl]bis(5-{[(9H-fluoren-9-ylmethoxy)carbonyl]amino}benzenesulfonic Acid) | 21.8 g, 72% | C(=C\C1=C(C=C(C=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)S(=O)(=O)O)/C1=C(C=C(C=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)S(=O)(=O)O | C44H34N2O10S2
